US07790728B2
6-Pyridin-2-ylpyrazin-2-amine
An oven dried resealable Schlenk tube was charged with 2-amino-6-chloropyrazine (1.00 g, 7.72 mmol), 2-(tributylstannyl)pyridine (3.55 g, 7.72 mmol) and xylene (40 mL). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium (446 mg, 0.38 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in a 150° C. oil bath. After 20 h, the mixture was cooled, partitioned between water and ethyl acetate, the aqueous phase was extracted twice with ethyl acetate, the organic layers washed with brine, dried (MgSO4) and evaporated. Silica gel flash chromatography (dichloromethane/methanol 98:2 to dichloromethane/methanol 90:10) provided the title compound as a light brown solid (950 mg, 71%).

reactant | 2-amino-6-chloropyrazine | 7.72 mmol, 1.00 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | 2-(tributylstannyl)pyridine | 7.72 mmol, 3.55 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmol, 446 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | xylene | 40 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 6-Pyridin-2-ylpyrazin-2-amine | 950 mg, 71% | N1=C(C=CC=C1)C1=CN=CC(=N1)N | C9H8N4
